US07459562B2
A) 6-(2-(Trimethylsilyl)ethynyl)pyridin-3-amine
A mixture of 3-amino-6-bromopyridine (Alfa Aesar, 1.0 g, 5.8 mmol), ethynyl trimethylsilane (1.7 mL, 17.3 mmol), CH3CN (3 mL), DMF (2 mL) and Et3N (2 mL) was treated with CuI (60 mg, 0.32 mmol) and (Ph3P)4Pd (114 mg, 0.10 mmol) and the mixture stirred at 45° C. for 1.5 h. More ethynyltrimethylsilane (1.7 mL, 17.3 mmol) was added to the reaction and the mixture was stirred for 2 h. The mixture was concentrated in vacuo and the residue partitioned between EtOAc and saturated aqueous NaHCO3 solution. The EtOAc phase was washed with brine, dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography on SiO2 using 0-6% EtOAc/hexanes to give the title compound (0.75 g, 68%) as a brown solid. 1H NMR (DMSO-d6) δ 7.85 (s, 1H), 7.15 (d, 1H, J=8.1 Hz), 6.81 (d, 1H, J=8.1 Hz), 5.76 (s, 2H), 0.19 (s, 9H); MS(ESI+): m/z 191.20 (M+H)+.

reactant | 3-amino-6-bromopyridine | 5.8 mmol, 1.0 g | NC=1C=NC(=CC1)Br | C5H5BrN2
reactant | ethynyl trimethylsilane | 17.3 mmol, 1.7 mL | C(#C)[Si](C)(C)C | C5H10Si
reactant | CH3CN | 3 mL | CC#N | C2H3N
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | ethynyltrimethylsilane | 17.3 mmol, 1.7 mL | C(#C)[Si](C)(C)C | C5H10Si
catalyst | CuI | 0.32 mmol, 60 mg | [Cu]I
catalyst | (Ph3P)4Pd | 0.10 mmol, 114 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Et3N | 2 mL | CCN(CC)CC | C6H15N
product | 6-(2-(Trimethylsilyl)ethynyl)pyridin-3-amine | 0.75 g, 68% | C[Si](C#CC1=CC=C(C=N1)N)(C)C | C10H14N2Si
